US04579860
4-Chloro-2-dimethylcarbamoyl-5-methylsulphonylmethyl-4-isoxazolin-3-one
363 mg of 4-chloro-2-dimethylcarbamoyl-5-methylsulphinylmethyl-4-isoxazolin-3-one were dissolved in 20 ml of methylene chloride, and then 300 mg of crystals of m-chloroperbenzoic acid were added little by little, whilst ice-cooling and stirring. The mixture was allowed to stand overnight at room temperature, and was then washed, in turn, with 20 ml of a 5% w/v aqueous solution of sodium hydrogen carbonate and then twice, each time with 20 ml of water. The washings were combined and then extracted twice, each time with 10 ml of chloroform. The organic phases were combined and dried over anhydrous sodium sulphate, after which the solvent was distilled off. The residue was recrystallized from a mixture of methylene chloride and diisopropyl ether, to give 337 mg (yield 87.5% of theory) of the title compound in the form of crystals melting at 129°-129.5° C.

reactant | 4-chloro-2-dimethylcarbamoyl-5-methylsulphinylmethyl-4-isoxazolin-3-one | 363 mg | ClC=1C(N(OC1CS(=O)C)C(N(C)C)=O)=O | C8H11ClN2O4S
reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 4-Chloro-2-dimethylcarbamoyl-5-methylsulphonylmethyl-4-isoxazolin-3-one | yield 87.5% | ClC=1C(N(OC1CS(=O)(=O)C)C(N(C)C)=O)=O | C8H11ClN2O5S
